US06930100B2
Step A. (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-(di-tert-butoxy-phosphoryloxy)-ethyl ester ((S)-VII, n=1)
The title compound was prepared analogously to (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-(di-tert-butoxy-phosphoryloxy)-propyl ester ((S)-VII, n=2) in 52% yield, using phosphoric acid di-tert-butyl ester 2-hydroxy-ethyl ester. 1H NMR (CDCl3, 500 MHz) δ 8.29 (s, 1H), 7.77 (d, 1H), 7.43 (d, 1H), 7.35 (d, 1H), 7.27 (d, 1H), 6.75 (d, 1H), 4.67 (m, 2H), 4.31 (m, 2H), 3.53 (s, 3H), 1.47 (s, 18H); LC-MS, 640.15 (MH+, 96); 31P NMR (CDCl3, 500 MHz) δ−8.71; 19F NMR (CDCl3, 500 MHz) δ−63.3, 153.6.

reactant | (S)-3-(5-chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-(di-tert-butoxy-phosphoryloxy)-propyl ester | C(C)(C)(C)OP(=O)(OC(COC(=O)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)C)OC(C)(C)C | C28H33ClF4NO8P
reactant | phosphoric acid di-tert-butyl ester 2-hydroxy-ethyl ester | OCCOP(OC(C)(C)C)(OC(C)(C)C)=O | C10H23O5P
product | (S)-3-(5-Chloro-2-methoxy-phenyl)-3-fluoro-2-oxo-6-trifluoromethyl-2,3-dihydro-indole-1-carboxylic acid 2-(di-tert-butoxy-phosphoryloxy)-ethyl ester | 52% yield | C(C)(C)(C)OP(=O)(OCCOC(=O)N1C([C@@](C2=CC=C(C=C12)C(F)(F)F)(F)C1=C(C=CC(=C1)Cl)OC)=O)OC(C)(C)C | C27H31ClF4NO8P
